### PR TITLE
Add torsion_PFR' without a finite ambient group

### PR DESCRIPTION
**Pull request by Chessing234**
`PFR_conjecture'`, `PFR_conjecture_improv'`, and `better_PFR_conjecture'` already allow an infinite ambient group when `A` is finite; `torsion_PFR` still required `[Finite G]`. Add the same span-and-pushforward corollary so torsion PFR matches the other primed forms (and what Palomar reimplements locally)

### CODE REVIEW

File: PFR/TorsionEndgame.lean [hunk 1]
```diff
@@ -1034,3 +1034,54 @@ theorem torsion_PFR {G : Type*} [AddCommGroup G] [Finite G] {m : ℕ} (hm : m 
         simp_rw [←Real.rpow_natCast]
         rw [←Real.rpow_mul (by positivity), ←Real.rpow_add (by positivity)]
         congr; push_cast; ring
+
+/-- Same as `torsion_PFR'` but with `[Module (ZMod m) G]` already available, so the
+span `Fintype` instance unifies (cf. `PFR_conjecture'` / Palomar). -/
```
Comment (YaelDillies) [inline PFR/TorsionEndgame.lean]: Can you explain what's going here?

**Comment by Chessing234** [comment]
the private aux is just so `[Module (ZMod m) G]` is already a typeclass hypothesis when we take `Submodule.span (ZMod m) A` — otherwise `Afin.submoduleSpan` produces a fintype that doesn't unify with the `let G' := …` (same pattern as `PFR_conjecture'` / the palomar writeup). the public `torsion_PFR'` only does `letI := zmodModule` and calls the aux.

**Review by YaelDillies — COMMENTED** [review]
Why don't you generalise the existing unprimed versions in place then? You can use `wlog _ : Finite G` to reduce to the case of a finite group. Same for `PFR'_conjecture`.

**Comment by Chessing234** [comment]
> Why don't you generalise the existing unprimed versions in place then? You can use `wlog _ : Finite G` to reduce to the case of a finite group. Same for `PFR'_conjecture`.

okok ill make the generalise it and make the changes

**Comment by Chessing234** [comment]
generalised `torsion_PFR` in place with `wlog _ : Finite G` (span reduction), dropped the primed aux. palomar just calls it now.

`PFR_conjecture'` same treatment still todo, can do in a follow-up unless you want it here

File: PFR/TorsionEndgame.lean (hunk 1 above)
Comment (Chessing234) [reply PFR/TorsionEndgame.lean]: that aux is gone now; the span reduction lives inside torsion_PFR via wlog

**Comment by Chessing234** [comment]
ci was red on the span fintype unify — put `wlog` behind a private `of_module` so `[Module (ZMod m) G]` is already there. public theorem still unprimed.

`PFR_conjecture'` same fold is not a small change (lives under `[Finite G]` with lots of call sites), leaving that for a follow-up

**Comment by Chessing234** [comment]
wlog kept fighting the dependent `htorsion`/`Module` binders, so switched to private finite lemma + span reduce (same public unprimed statement). still no primed theorem

File: PFR/TorsionEndgame.lean [hunk 2]
```diff
@@ -1015,32 +1011,83 @@ theorem torsion_PFR {G : Type*} [AddCommGroup G] [Finite G] {m : ℕ} (hm : m 
...
         rpow_ring
         norm_num
         left
-        simp_rw [←Real.rpow_natCast]
-        rw [←Real.rpow_mul (by positivity), ←Real.rpow_add (by positivity)]
+        simp_rw [← Real.rpow_natCast]
+        rw [← Real.rpow_mul (by positivity), ← Real.rpow_add (by positivity)]
         congr; push_cast; ring
+
+/-- Same as `torsion_PFR`, but with `[Module (ZMod m) G]` so the span `Fintype` unifies.
```
Comment (YaelDillies) [inline PFR/TorsionEndgame.lean]: I still don't understand what's going on here, please explain better

Comment (Chessing234) [reply PFR/TorsionEndgame.lean]: rewrote the docstring — of_module is just so `[Module (ZMod m) G]` is already a binder when we span; installing it mid-proof breaks the Fintype unify

**Comment by YaelDillies** [comment]
> wlog kept fighting the dependent `htorsion`/`Module` binders

Can you please provide a less cryptic explanation?
